US09290511B2
2-[4-Chloro-5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-2-yl]ethanol (150 mg, 0.0005 mol), triethylamine (0.214 mL, 0.00154 mol) and 4-(methoxymethyl)piperidine hydrochloride (0.091 g, 0.00055 mol) were dissolved in ethanol (5 mL) and warmed to 55° C. for 2 hrs. The reaction was then poured over ice and extracted with DCM. The organics were dried by passage through a PTFE frit and concentrated in vacuo to give 2-[5-(4-fluorophenyl)-4-[4-(methoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidin-2-yl]ethanol (180 mg). LCMS RT=4.33 min. M+1=402.

reactant | 2-[4-Chloro-5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-2-yl]ethanol | 0.0005 mol, 150 mg | ClC=1C2=C(N=C(N1)CCO)SC=C2C2=CC=C(C=C2)F | C14H10ClFN2OS
reactant | triethylamine | 0.00154 mol, 0.214 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(methoxymethyl)piperidine hydrochloride | 0.00055 mol, 0.091 g | Cl.COCC1CCNCC1
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-[5-(4-fluorophenyl)-4-[4-(methoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidin-2-yl]ethanol | 180 mg | FC1=CC=C(C=C1)C1=CSC=2N=C(N=C(C21)N2CCC(CC2)COC)CCO | C21H24FN3O2S
